US04839379
(a) 1-(4-Aminophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione
In a glass bomb tube, 2.3 g of 1-(4-aminophenyl)-1,2-cyclopropanedicarboxylic acid are stirred in 80 ml of approx. 1N methanolic ammonia solution for 7 days at 100° C. The reaction mixture is evaporated to dryness and the residue is chromatographed over silica gel with hexane/ethyl acetate (4:6). Recrystallisation from ethanol affords white crystals of the title compound, which is identical with the title compound of Example 1.

reactant | 1-(4-aminophenyl)-1,2-cyclopropanedicarboxylic acid | 2.3 g | NC1=CC=C(C=C1)C1(C(C1)C(=O)O)C(=O)O | C11H11NO4
reactant | ammonia | approx. 1N, 80 ml | N | H3N
product | 1-(4-Aminophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione | NC1=CC=C(C=C1)C12C(NC(C2C1)=O)=O | C11H10N2O2
